US07569603B2
Under nitrogen atmosphere, to a mixture of 0.50 g of 5-benzyl-3-furylmethyl alcohol, 0.62 g of (1R)-cis-2,2-dimethyl-3-((E)-3-ethoxy-2-fluoro-3-oxo-1-propenyl)-cyclopropanecarboxylic acid, 0.1 g of 4-dimethylaminopyridine and 7 ml of dichloromethane was added 0.60 g of N,N-dicyclohexylcarbodiimide, and the mixture was stirred at room temperature for 3 hours. Then, the reaction mixture was filtrated, and the filtrate was concentrated under reduced pressure. The resulting residue was subjected to silica gel chromatography to obtain 0.69 g of 5-benzyl-3-furylmethyl (1R)-cis-2,2-dimethyl-3-((E)-3-ethoxy-2-fluoro-3-oxo-1-propenyl)cyclopropanecarboxylate (hereinafter, referred to as the present compound (1)).

reactant | 5-benzyl-3-furylmethyl alcohol | 0.50 g | C(C1=CC=CC=C1)C1=CC(=CO1)CO | C12H12O2
reactant | (1R)-cis-2,2-dimethyl-3-((E)-3-ethoxy-2-fluoro-3-oxo-1-propenyl)-cyclopropanecarboxylic acid | 0.62 g | CC1([C@@H]([C@@H]1\C=C(/C(=O)OCC)\F)C(=O)O)C | C11H15FO4
catalyst | 4-dimethylaminopyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | 5-benzyl-3-furylmethyl (1R)-cis-2,2-dimethyl-3-((E)-3-ethoxy-2-fluoro-3-oxo-1-propenyl)cyclopropanecarboxylate | 0.69 g | CC1([C@@H]([C@@H]1\C=C(/C(=O)OCC)\F)C(=O)OCC1=COC(=C1)CC1=CC=CC=C1)C | C23H25FO5
